US04487930
A solution of 10.0 g of 6-chloro-3-methyl-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine and 12.8 g of 1-(2-aminoethyl)pyrrolidine in 50 ml of 2-methoxyethanol was heated at reflux for 15 hours. The reaction mixture was poured into 150 ml of cold water and the white precipitate which formed was separated by filtration and air dried to give 3-methyl-6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine melting at about 184°-186° C.

reactant | 6-chloro-3-methyl-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | 10.0 g | ClC1=NN2C(C=3CCCCC13)=NN=C2C | C10H11ClN4
reactant | 1-(2-aminoethyl)pyrrolidine | 12.8 g | NCCN1CCCC1 | C6H14N2
reactant | water | 150 ml | O | H2O
solvent | 2-methoxyethanol | 50 ml | COCCO | C3H8O2
product | 3-methyl-6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | CC1=NN=C2N1N=C(C=1CCCCC21)NCCN2CCCC2 | C16H24N6
